US09290517B2
Step B: 4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]benzonitrile
A flask was charged with 4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-5-yl]benzonitrile (209.8 mg, 0.397 mmol), formic acid (3.6 ml, 94 mmol), and saturated aqueous KHSO4 (0.4 ml). The reaction mixture was heated to 40° C. for 16 h. Then the reaction mixture was cooled to room temperature before being cooled to 0° C. in an ice bath. A 50% weight solution of aqueous NaOH (5.3 ml, 200.7 mmol) was added to the reaction mixture, which solidified after being removed from the ice bath and was allowed to warm to room temperature. The reaction mixture was diluted with THF (2.0 ml) and water (10.0 ml) to give a hazy biphasic mixture with a pH of 14 that was stirred at room temperature for 30 min. The pH was adjusted to 5 by the addition of 2 N aqueous HCl. The reaction mixture was partitioned between EtOAc (50 ml) and water (20 ml). The aqueous layer was extracted with EtOAc (2×50 ml). The organic layers were combined, washed with brine (1×30 ml), dried over Na2SO4, filtered, and evaporated under reduced pressure to give a light pink residue. This material was purified by preparative HPLC reverse phase (C-18), using a 30×150 mm Sunfire™ column and eluting with a 20%-100% acetonitrile/water+0.05% TFA gradient, followed by a 100% acetonitrile+0.05% TFA flush. The product fractions were combined, evaporated under reduced pressure, and lyophilized from ethanol and benzene to give the title compound as a white solid. LC-MS: calculated for C19H15ClN4O4 398.08 observed m/e: 399.09 (M+H)+ (Rt 1.07/2 min); 1H NMR δ (ppm) (CD3OD): 7.84 (s, 1H), 7.84 (qt, J=8.3 Hz, 4H), 5.54 (qt, J=5.3 Hz, 1H), 4.96 (t, J=5.2 Hz, 1H), 4.46 (t, J=5.0 Hz, 1H), 4.25-4.30 (m, 1H), 4.16 (dd, J=5.6 Hz, J=10.2, 1H), 4.11 (dd, J=4.7 Hz, J=10.2 Hz, 1H), 3.89 (dd, J=7.0 Hz, J=8.1 Hz, 1H), 3.59 (t, J=8.6 Hz, 1H).

reactant | 4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1-(2-trimethylsilylethoxymethyl)-imidazo[4,5-b]pyridin-5-yl]benzonitrile | 0.397 mmol, 209.8 mg | O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2N(C=1C(=NC(=C(C1)Cl)C1=CC=C(C#N)C=C1)N2)COCC[Si](C)(C)C | C25H29ClN4O5Si
reactant | formic acid | 94 mmol, 3.6 ml | C(=O)O | CH2O2
reactant | KHSO4 | 0.4 ml | OS(=O)(=O)[O-].[K+]
reactant | NaOH | 200.7 mmol, 5.3 ml | [OH-].[Na+]
reactant | HCl | 2 N | Cl | ClH
product | 4-[2-[[(3R,3aR,6R,6aR)-3-hydroxy-2,3,3a,5,6,6a-hexahydrofuro[3,2-b]furan-6-yl]oxy]-6-chloro-1H-imidazo[4,5-b]pyridin-5-yl]benzonitrile | O[C@H]1[C@@H]2[C@H](OC1)[C@@H](CO2)OC=2NC=1C(=NC(=C(C1)Cl)C1=CC=C(C#N)C=C1)N2 | C19H15ClN4O4
